US06313126B1
5-Fluoro-3-{4-[4-(6-methoxy-naphthalen-2-yl)-piperazin-1-yl]-cyclohexyl}-1H-indole
To 400 mg (1.66 mmol) of 1-(6-methoxy-naphthalen-2-yl)-piperazine in 40 mL of CH2Cl2 and 100 mg of glacial HOAc at 23° C. was added 384 mg (1.66 mmol) of 4-(5-fluoro-1H-indol-3-yl)-cyclohex-3-enone followed by 216 mg, (1.89 mmol) of Na(OAc)3BH. After stirring at 23° C. for 12 hours, the reaction mixture was transferred to a separatory funnel and partitioned between water and CH2Cl2. The organics were washed with brine, dried over MgSO4, and chromatographed on silica gel eluting with 20:1 EtOAc:2 M NH3 in MeOH. The product fractions were pooled, stripped, and treated with 115 mg (1.3 mmol) of (CO2H)2 in absolute EtOH to give 640 mg (1.40 mmol, an 84% yield) of the oxalate salt of the title compound as a white crystalline solid. mp: 200-203° C.; MS (ES) m/z 458 (MH)+.

reactant | 1-(6-methoxy-naphthalen-2-yl)-piperazine | 1.66 mmol, 400 mg | COC=1C=C2C=CC(=CC2=CC1)N1CCNCC1 | C15H18N2O
reactant | HOAc | 100 mg | CC(=O)O | C2H4O2
reactant | 4-(5-fluoro-1H-indol-3-yl)-cyclohex-3-enone | 1.66 mmol, 384 mg | FC=1C=C2C(=CNC2=CC1)C1=CCC(CC1)=O | C14H12FNO
reactant | Na(OAc)3BH | 1.89 mmol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | CCO | C2H6O
product | 5-Fluoro-3-{4-[4-(6-methoxy-naphthalen-2-yl)-piperazin-1-yl]-cyclohexyl}-1H-indole | 84% yield | FC=1C=C2C(=CNC2=CC1)C1CCC(CC1)N1CCN(CC1)C1=CC2=CC=C(C=C2C=C1)OC | C29H32FN3O
